US07964540B2
In a 2 L four-necked flask, 500 g of longifolene (manufactured by Yasuhara Chemical Co., Ltd.) and 250 mL of acetic acid were placed, to which 250 mL of boron trifluoride-diethyl etherate was added dropwise at 20° C. over 4 hours with stirring to carry out the isomerization. The reaction mixture was washed with ice water, a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution, and then refined by distillation. Thereafter, the refined product was mixed to 1,800 mL of methylene chloride and 900 mL of 0.5 N aqueous sodium hydrogen carbonate solution, to which 400 g of 3-chloroperbenzoic acid was slowly added at a temperature of 10° C. or less. After completion of the reaction, the reaction mixture was washed with 1 N aqueous sodium hydroxide solution and with water and concentrated in vacuo. The thus obtained crude product was dissolved in 3 L of toluene, to which 260 mL of boron trifluoride-diethyl etherate was slowly added dropwise at 5° C. or less. After completion of the reaction, the reaction mixture was washed with water and then refined by distillation to obtain 270 g of 1,1,5,5-tetramethyl-hexahydro-2,4a-methano-naphthalene-8-one. This was added dropwise at 5° C. or less to 640 mL of 2.1 N diethyl ether solution of methyllithium to carry out the alkylation. After completion of the reaction, the reaction mixture was washed with saturated aqueous ammonium chloride solution and with water and, then, charged in a 1 L autoclave together with 30 g of a nickel/diatomaceous earth hydrogenation catalyst (N-113, manufactured by Nikki Chemical Co., Ltd.) and was hydrogenated (hydrogen pressure: 6 MPa, reaction temperature: 250° C., reaction time: 6 hours).

reactant | longifolene | 500 g | CC1(CCCC2(C3C1C(C2=C)CC3)C)C | C15H24
reactant | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 3 L | C1(=CC=CC=C1)C | C7H8
product | 1,1,5,5-tetramethyl-hexahydro-2,4a-methano-naphthalene-8-one | 270 g | CC1(C2CCC3(C(CCC(C13)=O)(C)C)C2)C | C15H24O
